US06812226B2
(i) 4-Chloro-N-(1-methylethyl)-3-nitrobenzenesulfonamide
4-Chloro-3-nitrobenzenesulfonyl chloride (2 g) and isopropylamine (2.1 ml) in dichloromethane (30 ml) was stirred at room temperature for 2 h. The mixture was washed with water, 2M hydrochloric acid, water, dried and evaporated under reduced pressure. Yield 2.2 g.

reactant | 4-Chloro-3-nitrobenzenesulfonyl chloride | 2 g | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C6H3Cl2NO4S
reactant | isopropylamine | 2.1 ml | C(C)(C)N | C3H9N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 4-Chloro-N-(1-methylethyl)-3-nitrobenzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC(C)C)[N+](=O)[O-] | C9H11ClN2O4S
